US04900751
(a) 5,6-Dimethoxy-2-(5-methoxy-2-nitrophenylthio)-1H-benzimidazole
5,6-Dimethoxy benzimidazole-2-thione (4.0 g), 2-chloro-4-methoxy nitrobenzene (3.6 g) and potassium carbonate (2.65 g) were stirred together in dry dimethyl formamide (30 ml) at 95° for 3 days. The cooled mixture was poured onto water (300 ml) and the precipitate collected. The solid was washed with water and dried to leave the sub-title compound as a pale yellow solid, MS 361 bp 207.

reactant | 5,6-Dimethoxy benzimidazole-2-thione | 4.0 g | COC1=CC=2C(=NC(N2)=S)C=C1OC | C9H8N2O2S
reactant | 2-chloro-4-methoxy nitrobenzene | 3.6 g | ClC1=C(C=CC(=C1)OC)[N+](=O)[O-] | C7H6ClNO3
reactant | potassium carbonate | 2.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | 5,6-Dimethoxy-2-(5-methoxy-2-nitrophenylthio)-1H-benzimidazole | COC1=CC2=C(NC(=N2)SC2=C(C=CC(=C2)OC)[N+](=O)[O-])C=C1OC | C16H15N3O5S
